US06376712B2
The second step of the process of the present invention was conducted as follows. At first, a 100 ml autoclave equipped with an electromagnetic stirrer was charged with 5.00 g (26 mmol) of 4-trifluoromethylbenzaldehyde oxime, 50 ml of 2M-ammoniacal methanol solution (containing 100 mmol of ammonia), and 0.25 g of a catalyst (i.e., a carbon powder (50% wet) carrying thereon 5% palladium), followed by introduction of hydrogen to have an inside pressure of 1 MPa. Then, the reaction mixture was stirred, while the reaction temperature was maintained at 20° C. and while hydrogen was gradually introduced into the autoclave in a manner to maintain the total pressure at 1 MPa. After conducting the reaction for 2 hr, the reaction was stopped, followed by removing the catalyst by filtration. As a result of analyzing the obtained reaction liquid by gas chromatography, 4-trifluoromethylbenzylamine was formed at a yield of 87.6%.

reactant | 4-trifluoromethylbenzaldehyde oxime | 26 mmol, 5.00 g | FC(C1=CC=C(C=NO)C=C1)(F)F | C8H6F3NO
reactant | methanol | 100 mmol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 4-trifluoromethylbenzylamine | yield of 87.6% | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
